US08076345B2
2-{4-[(R)-1-(2-Methoxy-pyrimidin-5-yl)-ethylamino]-7,8-dihydro-5H-pyrido[4,3-d]pyrimidin-6-yl}-5-methyl-benzonitrile
A reaction mixture of 2-(4-chloro-7,8-dihydropyrido[4,3-d]pyrimidin-6(5H)-yl)-5-methylbenzonitrile (430 mg, 1.51 mmol) and (R)-1-(2-methoxypyrimidin-5-yl)ethanamine (238 mg, 1.56 mmol) (prepared similarly according to the method for Intermediate 16) in acetonitrile (6 mL) and N,N-diisopropylethylamine (2 mL, 9 mmol) was subjected to microwave irradiation at 185° C. for 3.5 h. The reaction mixture was concentrated and the residue was purified by semi-preparative HPLC (100×20.2 mm, C18 column; 30-60% acetonitrile-water [10 mM Et2NH]) to yield a light yellow solid.

reactant | 2-(4-chloro-7,8-dihydropyrido[4,3-d]pyrimidin-6(5H)-yl)-5-methylbenzonitrile | 1.51 mmol, 430 mg | ClC=1C2=C(N=CN1)CCN(C2)C2=C(C#N)C=C(C=C2)C | C15H13ClN4
reactant | (R)-1-(2-methoxypyrimidin-5-yl)ethanamine | 1.56 mmol, 238 mg | COC1=NC=C(C=N1)[C@@H](C)N | C7H11N3O
reactant | N,N-diisopropylethylamine | 9 mmol, 2 mL | C(C)(C)N(C(C)C)CC | C8H19N
solvent | acetonitrile | 6 mL | C(C)#N | C2H3N
product | 2-{4-[(R)-1-(2-Methoxy-pyrimidin-5-yl)-ethylamino]-7,8-dihydro-5H-pyrido[4,3-d]pyrimidin-6-yl}-5-methyl-benzonitrile | COC1=NC=C(C=N1)[C@@H](C)NC=1C2=C(N=CN1)CCN(C2)C2=C(C#N)C=C(C=C2)C | C22H23N7O
